US04328169
To a reactor containing 5.6 g potassium hydroxide and 60 mls. methylene dichloride were added 6.5 g ethyl acetoacetate and 1.33 g ethoxylated (9 E.O.) nonylphenol. The mixture was agitated and 10.7 g 1,4-dibromobutene-2 slowly added while maintaining the temperature at 30°-35° C. The reaction was continued with stirring at 30° C. for one hour after which time 74% yield 1-carboethoxy-1-methylketo-2-vinylcyclopropane was obtained. Similar results are obtained when the reaction is repeated using 1,4-dichlorobutene-2 and 1,4-diacetoxybutene-2.

reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
reactant | ethyl acetoacetate | 6.5 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | 1-carboethoxy-1-methylketo-2-vinylcyclopropane | 74% yield | C(=O)(OCC)C1(C(C1=O)C=C)C | C9H12O3
